US04014679
A mixture of 68.5 g of m-bromo-acetylacetanilide, 39.6 g of methyl orthoformate, 160 ml of methanol and 0.5 g of p-toluene sulfonic acid was stirred for 2 hours at 20° C and after the addition of 1 ml of quinoline, the mixture was evaporated to dryness under reduced pressure. The 83 g of colorless oil residue was taken up in 400 ml of toluene and the mixture was heated at 140° C for 4 hours while distilling the toluene-methanol azeotrope formed. After cooling, the toluene was evaporated under reduced pressure and the residue was chromatographed over silica gel. The product was eluted with a 9-1 mixture of methylene chloride and ethyl acetate and the fraction with an Rf = 0.65 was taken up in isopropyl ether to obtain 44 g of m-bromo-3-methoxy-crotonanilide melting at 110° C.

reactant | m-bromo-acetylacetanilide | 68.5 g | BrC=1C=C(NC(CC(C)=O)=O)C=CC1 | C10H10BrNO2
reactant | methyl orthoformate | 39.6 g | C(OC)([O-])[O-]
reactant | quinoline | 1 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 160 ml | CO | CH4O
product | m-bromo-3-methoxy-crotonanilide | 44 g | BrC=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C11H12BrNO2
